US04456752
2.0 g. (0.005 moles) of 9,9-dibromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester and 0.9 g. (0.005 moles) of piperonylic acid hydrazide are dissolved in 80 ml. of pyridine. The solution is allowed to stand for two days whereupon the solvent is distilled off in vacuo. To the residue 30 ml. of water are added. After a short standing the crystals are filtered off and recrystallized from methanol. 0.5 g. (24.2%) of 6-methyl-9-(3,4-methylenedioxybenzoylhydrazono)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester are obtained, melting at 183° to 185° C.

reactant | 9,9-dibromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 0.005 moles | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2(Br)Br)C | C12H14Br2N2O3
reactant | piperonylic acid hydrazide | 0.005 moles | C(C1=CC=2OCOC2C=C1)(=O)NN | C8H8N2O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-methyl-9-(3,4-methylenedioxybenzoylhydrazono)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 24.2% | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2=NNC(C2=CC1=C(C=C2)OCO1)=O)C | C20H20N4O6
